US05356905
3-(4-Hydroxy-4-phenylpiperidino)-7-(triisopropylsilyloxy)chromen-4-one
3,3-Dibromo-7-(triisopropylsilyloxy)-4-chromanone (5.0 g, 10.5 mmol) was dissolved in CH3CN (150 ml) and 4-hydroxy-4-phenylpiperidine (2.2 g, 12.5 mmol) and triethylamine (2.9 ml, 20.8 mmol) were added. The mixture was stirred overnight at ambient temperature, then concentrated and the residue partitioned between ethyl acetate and water. The organic layer was washed with water (2×50 ml) and brine, dried over CaSO4, concentrated, and the residue chromatographed on silica gel, using gradient elution with ethyl acetate/hexane to yield title product as a white solid (2.3 g, 54%). A portion was recrystallized from ethanol/ether; mp 163°-163.5° C.; IR (KBr) 3437, 2950, 2870, 1635, 1615, 1600, 1447, 1285, 1247, 1200, 1185, 703, 690. Anal. Calcd. for C29H39NO4Si: C, 70.55; H, 7.96; N, 2.84. Found: C., 70.44; H, 7.76; N, 2.84.

reactant | 3,3-Dibromo-7-(triisopropylsilyloxy)-4-chromanone | 10.5 mmol, 5.0 g | BrC1(COC2=CC(=CC=C2C1=O)O[Si](C(C)C)(C(C)C)C(C)C)Br | C18H26Br2O3Si
reactant | 4-hydroxy-4-phenylpiperidine | 12.5 mmol, 2.2 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | triethylamine | 20.8 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | CH3CN | 150 ml | CC#N | C2H3N
product | 3-(4-Hydroxy-4-phenylpiperidino)-7-(triisopropylsilyloxy)chromen-4-one | 2.3 g, 54% | OC1(CCN(CC1)C1=COC2=CC(=CC=C2C1=O)O[Si](C(C)C)(C(C)C)C(C)C)C1=CC=CC=C1 | C29H39NO4Si
